US06353111B1
A suspension of isobutyl triphenylphosphonium bromide (2.02 g, 4.96 mmol) in dry tetrahydrofuran (5.4 mL) was cooled to 0° C. and then treated dropwise with a 1.0M solution of sodium bis(trimethylsilyl)amide (5 mL, 4.96 mmol). The bright orange reaction mixture was stirred at 0° C. for 1 h. The reaction mixture was then treated with a solution of (3,4-dichloro-phenyl)-oxo-acetic acid methyl ester (0.77 g, 3.30 mmol) in tetrahydrofuran (3 mL). The resulting reaction mixture was allowed to warm to 25° C. where it was stirred for 15 h. The reaction mixture was quenched with water (10 mL) and then concentrated in vacuo to remove tetrahydroftiran. The residue was further diluted with water (50 mL) and then extracted with ethyl acetate (2×75 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 97/3 hexanes/ethyl acetate) afforded the 2-(3,4-dichloro-phenyl)-4-methyl-pent-2-enoic acid methyl ester (749 mg, 83%) as a yellow viscous oil containing a 3.5:1 mixture of (E):(Z) isomers. The isomeric mixture was used without further separation and characterization.

reactant | isobutyl triphenylphosphonium bromide | 4.96 mmol, 2.02 g | [Br-].C(C(C)C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium bis(trimethylsilyl)amide | 4.96 mmol, 5 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | (3,4-dichloro-phenyl)-oxo-acetic acid methyl ester | 3.30 mmol, 0.77 g | COC(C(=O)C1=CC(=C(C=C1)Cl)Cl)=O | C9H6Cl2O3
solvent | tetrahydrofuran | 5.4 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 2-(3,4-dichloro-phenyl)-4-methyl-pent-2-enoic acid methyl ester | 749 mg, 83% | COC(C(=CC(C)C)C1=CC(=C(C=C1)Cl)Cl)=O | C13H14Cl2O2
